### PR TITLE
[Merged by Bors] - feat(Topology): continuous on image of inducing map

### PR DESCRIPTION
**Pull request by alreadydone**
Co-authored-by: Aaron Liu @plp127
Co-authored-by: Andrew Yang @erdOne 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Maps/Basic.lean [hunk 1]
```diff
@@ -168,6 +168,12 @@ theorem dense_iff (hf : IsInducing f) {s : Set X} :
 theorem of_subsingleton [Subsingleton X] (f : X → Y) : IsInducing f :=
   ⟨Subsingleton.elim _ _⟩
 
+theorem continuous_iff_of_surjective (ind : IsInducing f) (surj : Function.Surjective f) :
```
Comment (erdOne) [inline Mathlib/Topology/Maps/Basic.lean:171]: Can you add a pointer to `IsQuotientMap.continuous_iff`? Or is there something more general that subsumes both?

File: Mathlib/Topology/ContinuousOn.lean [hunk 2]
```diff
@@ -1297,6 +1297,17 @@ lemma Topology.IsInducing.continuousOn_iff {f : α → β} {g : β → γ} (hg :
 
 @[deprecated (since := "2024-10-28")] alias Inducing.continuousOn_iff := IsInducing.continuousOn_iff
 
+lemma Topology.IsInducing.map_nhdsWithin_eq {f : α → β} (hf : IsInducing f) (s : Set α) (x : α) :
+    map f (𝓝[s] x) = 𝓝[f '' s] f x := by
+  ext U
+  simp_rw [mem_map, mem_nhdsWithin_iff_eventually, hf.nhds_eq_comap, eventually_comap,
+    mem_image, forall_exists_index, and_comm, and_imp]
+  congr! with b a rfl
```
Comment (erdOne) [inline Mathlib/Topology/ContinuousOn.lean:1305]:
```suggestion
  ext; simp +contextual [mem_nhdsWithin_iff_eventually, hf.nhds_eq_comap, forall_comm (α := _ ∈ _)]
```

File: Mathlib/Topology/Maps/Basic.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/Topology/Maps/Basic.lean:171]: Good point, what I'm proving here is that a surjective inducing map is actually a quotient map. I replaced the statement.

**Review by grunweg — COMMENTED** [review]
Thanks!
maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

File: Mathlib/Topology/Maps/Basic.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/Topology/Maps/Basic.lean]: This is strengthened to IsOpenQuotientMap in #25242
